US07902226B2
Ethyl 6-amino-7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate
Ethyl 6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate (10.04 g, 27.12 mmol) was dissolved in dimethylformamide (150 ml), and 28% ammonia water (32.1 ml) was added dropwise thereto while stirring and cooling with ice. While sealing the reaction solution in a sealed tube, it was stirred at room temperature for 4 hours. The reaction solution was then dissolved in methanol (200 ml) and concentrated under a reduced pressure. The residue obtained was purified by recrystallization from a mixed solvent of 2-propanol/chloroform/28% ammonia water, and after drying under a reduced pressure, 7.07 g (71%) of the title compound was obtained as a yellow powder.

reactant | Ethyl 6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate | 27.12 mmol, 10.04 g | FC=1C(=C2C(C(=CN(C2=C(C1F)C)[C@H]1[C@H](C1)F)C(=O)OCC)=O)[N+](=O)[O-] | C16H13F3N2O5
reactant | ammonia water | 32.1 ml | O.N
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | methanol | 200 ml | CO | CH4O
product | Ethyl 6-amino-7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate | 7.07 g, 71% | NC=1C(=C2C(C(=CN(C2=C(C1F)C)[C@H]1[C@H](C1)F)C(=O)OCC)=O)[N+](=O)[O-] | C16H15F2N3O5
